US06166028
3,5-Dichloro-4-phenoxy-phenylamine
To a slurry of 3,5-dichloro-4-phenoxy-nitrobenzene (6.1 g) and tin powder (12 g) is added dropwise concentrated hydrochloric acid (60 mL). Ethanol (60 mL) is added and the mixture is heated to reflux for approximately 1 hour. The mixture is then cooled in an ice bath and basified by addition of solid sodium hydroxide. The resulting suspension is filtered through a pad of diatomaceous earth and extracted three times with ethyl acetate. The combined organic extracts are then washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to provide the desired product as a yellow solid.

reactant | 3,5-dichloro-4-phenoxy-nitrobenzene | 6.1 g | ClC=1C=C(C=C(C1OC1=CC=CC=C1)Cl)[N+](=O)[O-] | C12H7Cl2NO3
reactant | tin | 12 g | [Sn] | Sn
reactant | hydrochloric acid | 60 mL | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | Ethanol | 60 mL | C(C)O | C2H6O
product | 3,5-Dichloro-4-phenoxy-phenylamine | ClC=1C=C(C=C(C1OC1=CC=CC=C1)Cl)N | C12H9Cl2NO
